US04395556
(S)-1-[2-Methyl-3-[(4-nitrobenzofurazan-7-yl)thio]-1-oxopropyl]-L-proline
700 Mg of 1-(3-mercapto-2-methyl-1-oxopropyl)-L-proline, 700 mg of 4-chloro-7-nitrobenzofurazan (10% excess), 1 g sodium bicarbonate, and 10 ml dichloromethane were stirred at 20° C. for 16 hours. The reaction mixture was put in a 4×30 cm Silicar CC4 column, and eluted with C6H6 :CH3COOH (3:1) mixture (v/v).

reactant | 1-(3-mercapto-2-methyl-1-oxopropyl)-L-proline | SCC(C(=O)N1[C@H](C(=O)O)CCC1)C | C9H15NO3S
reactant | 4-chloro-7-nitrobenzofurazan | 700 mg | ClC1=CC=C(C=2C1=NON2)[N+](=O)[O-] | C6H2ClN3O3
reactant | sodium bicarbonate | 1 g | C([O-])(O)=O.[Na+]
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
product | (S)-1-[2-Methyl-3-[(4-nitrobenzofurazan-7-yl)thio]-1-oxopropyl]-L-proline | CC(C(=O)N1[C@H](C(=O)O)CCC1)CSC1=CC=C(C2=NON=C21)[N+](=O)[O-] | C15H16N4O6S
